Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ labs
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ is a pleasant ___ year old female with hx of ITP who 
presents at the advice of her hematologist for thrombocytopenia, 
platelet count of 9 at ___ today.  She has noticed some easy 
bruising in the past few weeks however no trauma, no head 
injury, no headache, no visual disturbances, no epistaxis. Lmp 
started last ___ with normal flow.  No fever, no recent 
illness, no cough, no dyspnea, sob. no nvd. Complains of chronic 
constipation.  No black or bloody stools. + chronic constipation 
and heartburn

In the ED, initial vitals were: t98.6 hr74 bp161/81 rr18 o2100% 
RA repeat cbc: plt 14.  The case was discussed with the 
referring hematologist who recommended admission for IV dex and 
possibly IVIG. Pt was given dexamethasone 40 in the ED and 
transferred to the floor.

On the floor, pt has no complaints.  States she has developed a 
mild rash on the back of her wrist since arriving in the ED.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.

 
Past Medical History:
ITP-dx ___ in ___, treated with IVIG at that time, was on 
50 mg steroids daily x ___ m, then 20 mg for ___ m.
Iron def anemia
APA positive
thyroid ca s/p thyroidectomy
hx h pylori
GERD
 
Social History:
___
Family History:
Father with hearing problems, mother with DM, grandfather and 
uncle with CAD/PVD
 
Physical Exam:
Vitals: 97.8 132/82 57 18 99% RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
petechial rash on soft palate
Neck: Supple
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, no CCE
Neuro: aaox3 CNII-XII and strength grossly intact 
Skin: petical rash on back of wrist and chest
 
Pertinent Results:
___ 09:57PM   GLUCOSE-109* UREA N-12 CREAT-0.7 SODIUM-136 
POTASSIUM-5.3* CHLORIDE-101 TOTAL CO2-23 ANION GAP-17
___ 09:57PM   estGFR-Using this
___ 09:57PM   WBC-7.8 RBC-5.19 HGB-13.7 HCT-41.9 MCV-81* 
MCH-26.4 MCHC-32.7 RDW-12.7 RDWSD-36.5
___ 09:57PM   NEUTS-68.2 ___ MONOS-5.8 EOS-0.6* 
BASOS-1.2* IM ___ AbsNeut-5.29 AbsLymp-1.85 AbsMono-0.45 
AbsEos-0.05 AbsBaso-0.09*
___ 09:57PM   PLT SMR-RARE PLT COUNT-14*#
___ 07:30PM URINE  HOURS-RANDOM
___ 07:30PM URINE  HOURS-RANDOM
___ 07:30PM URINE  UCG-NEGATIVE
___ 07:30PM URINE  GR HOLD-HOLD
___ 07:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:30PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 07:30PM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-1

discharge labs:
___ 06:45AM BLOOD WBC-15.1*# RBC-4.69 Hgb-12.6 Hct-37.9 
MCV-81* MCH-26.9 MCHC-33.2 RDW-12.6 RDWSD-36.1 Plt Ct-76*#
___ 06:45AM BLOOD Glucose-162* UreaN-16 Creat-0.6 Na-139 
K-3.9 Cl-105 HCO3-23 AnGap-15
 
Brief Hospital Course:
 Pleasant ___ yo F with hx of ITP presenting with 
thrombocytopenia found on routine lab work concerning for 
recurrent ITP.

# Thrombocytopenia/ITP: pt presenting with plts of 14, no 
evidence of significant bleed.  She was treated with a single 
dose of IVIG at 1 mg/kg, and with decadrone 40 mg for 4 days, 
and her platelets improved to 76 by HD #2.  She was discharged 
with one more day of decadron, and advised to have weekly cbcs 
and hematology follow up in 10 days.

# Hypothyroidisim
-continued levothyroxine

Name of health care proxy: ___ 
Relationship: Husband 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 125 mcg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Dexamethasone 40 mg PO DAILY 
RX *dexamethasone 4 mg 10 tablet(s) by mouth once Disp #*10 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ITP
Hypothyroidism
 
Discharge Condition:
Tolerating diet, platelets 76
 
Discharge Instructions:
You were admitted with low platelets because of your ITP.  You 
improved with one dose of IVIG and with steroids.

You should follow up with your hematologist on ___ at 9:00 am
You will need a weekly blood count until then.
 
Followup Instructions:
___